US04409215
Bromoacetic acid (10.45 g) was dissolved in methanol (30 ml). To the solution was added an equivalent volume of diphenyl diazomethane in ethyl acetate at 45° C., and the reaction mixture was stirred at the same temperature for an hour. The solution was washed with 5% aqueous sodium bicarbonate and a saturated aqueous sodium chloride, and then dried over magnesium sulfate. The solution was evaporated in vacuo to give an oily product. This oil was dissolved in N,N-dimethylformamide (60 ml). To the solution was added N-hydroxyphthalimide (11.7 g) and triethylamine (15.1 ml), and the reaction mixture was stirred at ambient temperature for an hour. The resultant mixture was poured into a saturated aqueous sodium chloride (500 ml). The precipitates were collected by filtration, washed with water, and then dissolved in methylene chloride (700 ml). The solution was washed with a saturated aqueous sodium chloride, dried over magnesium sulfate, and then evaporated under reduced pressure to give benzhydryl 2-phthalimidooxyacetate (20.4 g), mp 173°-175° C.

reactant | Bromoacetic acid | 10.45 g | BrCC(=O)O | C2H3BrO2
reactant | diphenyl diazomethane | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | N-hydroxyphthalimide | 11.7 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | sodium chloride | 500 ml | [Cl-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 15.1 ml | C(C)N(CC)CC | C6H15N
product | benzhydryl 2-phthalimidooxyacetate | 20.4 g | C1(C=2C(C(N1OCC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O)=CC=CC2)=O | C23H17NO5
